US08877779B2
A known compound, 8-hydroxyacenaphthen-1-one (7.0 g) (J. Chem. Soc., 1954, p. 4299), was dissolved in N,N-dimethylformamide (70 ml), potassium carbonate (7.9 g) and methyl iodide (6.8 g) were added, and the mixture was stirred at room temperature for 5 hr. After completion of the reaction, the mixture was extracted with ethyl acetate, and the extract was washed with saturated brine, and dried over magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography to give 8-methoxyacenaphthen-1-one (5.7 g). The obtained methoxy form was dissolved in methanol (25 ml), sodium borohydride (220 mg) was added, and the mixture was stirred at room temperature for 1 hr. To the reaction mixture was gradually added aqueous ammonium chloride solution, and the mixture was extracted with ethyl acetate. The extract was washed with saturated sodium chloride, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure to give 8-methoxy-1-acenaphthenol (5.6 g). The title compound (2.28 g) was obtained according to the method of Example 125 and using the obtained alcohol form.

reactant | 8-hydroxyacenaphthen-1-one | 7.0 g | OC1=CC=C2C=CC=C3CC(C1=C32)=O | C12H8O2
reactant | potassium carbonate | 7.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 6.8 g | CI | CH3I
solvent | N,N-dimethylformamide | 70 ml | CN(C=O)C | C3H7NO
product | 8-methoxyacenaphthen-1-one | 5.7 g | COC1=CC=C2C=CC=C3CC(C1=C32)=O | C13H10O2
